US08097759B2
5-Bromo-N-[5-phenyl-4-(trifluoromethyl)thiazol-2-yl]-2-hydroxybenzamide (Compound No. 206)
Using 5-bromosalicylic acid and 2-amino-5-phenyl-4-(trifluoromethyl)thiazole as the raw materials, the same operation as the example 195(3) gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-5-phenyl-4-(trifluoromethyl)thiazole | NC=1SC(=C(N1)C(F)(F)F)C1=CC=CC=C1 | C10H7F3N2S
product | 5-Bromo-N-[5-phenyl-4-(trifluoromethyl)thiazol-2-yl]-2-hydroxybenzamide | Yield: 33.2% | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C(F)(F)F)C2=CC=CC=C2)C1)O | C17H10BrF3N2O2S
